US07652051B2
Synthesis of S-methyl N-[4-chloro-3 (trifluoromethyl)phenyl]isothiourea hydroiodide
4-Chloro-3-trifluoromethyl-phenylthiourea (5.0 g, 19.63 mmol) was dissolved in ca. 80 mL of anhydrous MeOH and methyl iodide (2.93 g, 20.61 mmol) was added via a syringe. The reaction mixture was refluxed for 12 hours. Then it was cooled down to ambient temperature and solvent was removed in vacuo to give colorless oil (7.85 g), which was taken to the next step without further purifications.

reactant | 4-Chloro-3-trifluoromethyl-phenylthiourea | 19.63 mmol, 5.0 g | ClC1=C(C=C(C=C1)NC(=S)N)C(F)(F)F | C8H6ClF3N2S
reactant | methyl iodide | 20.61 mmol, 2.93 g | CI | CH3I
solvent | MeOH | ca. 80 mL | CO | CH4O
product | S-methyl N-[4-chloro-3 (trifluoromethyl)phenyl]isothiourea hydroiodide | 7.85 g | I.CSC(NC1=CC(=C(C=C1)Cl)C(F)(F)F)=N | InChI=1S/C9H8ClF3N2S.HI/c1-16-8(14)15-5-2-3-7(10)6(4-5)9(11,12)13;/h2-4H,1H3,(H2,14,15);1H
